US04654369
Step C: Methyl 2-[N-(2-Hydroxyethyl)-N-methylaminosulfonyl]-6-nitrobenzoate
N-Methylethanolamine (2.96 g, 39.4 mmol) was added to a solution of methyl 2-chlorosulfonyl-6nitrobenzoate (5.5 g, 19.7 mmol) in THF (150 ml) and the mixture stirred at 20°-25° for 18 hours. After removing THF under reduced pressure, the residue was partitioned between EtOAc and H2O. The organic extract was washed with saturated NaCl solution and dried (Na2SO4). Flash chromatography of the residue over silica gel and elution with 1% MeOH-99% CHCl3 afforded pure sulfonamide. Recrystallization from EtOAc-hexane gave analytically pure product (5.2 g, 82.9%), m.p. 98°-101°.

reactant | N-Methylethanolamine | 39.4 mmol, 2.96 g | CNCCO | C3H9NO
reactant | methyl 2-chlorosulfonyl-6nitrobenzoate | 19.7 mmol, 5.5 g | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO6S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Methyl 2-[N-(2-Hydroxyethyl)-N-methylaminosulfonyl]-6-nitrobenzoate | 5.2 g, 82.9% | OCCN(S(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-])C | C11H14N2O7S
